US04931450
4-(2-Methylbenzoyl)pyridine
Pyridinium chlorochromate (9.29 g, 43.1 mmol) was dissolved in dichloromethane (50 ml) and a solution of 2-methylphenyl-(4-pyridyl)methanol (5.72 g, 28.7 mmol) in dichloromethane (30 ml) was added. The reaction mixture became dark immediately, and was stirred for 2 h at room temperature. Diethyl ether (350 ml) was added, and the reaction mixture was filtered through "hyflo" and evaporated to a dark oil (11.26 g). Flash chromatography on silica gel (Merck Art 9385) eluting with heptane/tetrahydrofuran (4:1) provided the title compound (2.74 g, 48%) as an oil. T.l.c. rf=0.45 (SiO2, ethyl acetate).

reactant | Pyridinium chlorochromate | 43.1 mmol, 9.29 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 2-methylphenyl-(4-pyridyl)methanol | 28.7 mmol, 5.72 g | CC1=C(C=CC=C1)C(O)C1=CC=NC=C1 | C13H13NO
reactant | Diethyl ether | 350 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-(2-Methylbenzoyl)pyridine | 2.74 g, 48% | CC1=C(C(=O)C2=CC=NC=C2)C=CC=C1 | C13H11NO
